US07947706B2
93 mg of pale yellow solid 3-{4-[3-(3-chloro-4-difluoromethoxyphenyl)-ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide are prepared as described in Example 1 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide and 3-chloro-4-difluoromethoxyphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | 3-chloro-4-difluoromethoxyphenyl isocyanate | ClC=1C=C(C=CC1OC(F)F)N=C=O | C8H4ClF2NO2
product | 3-{4-[3-(3-chloro-4-difluoromethoxyphenyl)-ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | ClC=1C=C(C=CC1OC(F)F)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O | C22H16ClF2N5O3
